US07429665B2
4-(2-(pyridin-4-yl)ethynyl)phenol
Boron tribromide (1M in dichloromethane, 9.7 mL, 9.7 mmol) was added at 0° C. to a solution of 4-(2-(4-methoxyphenyl)ethynyl)pyridine (810 mg, 3.88 mmol) in dichloromethane (10 mL) and the mixture was stirred at RT for 5 h. Aqueous 1 N sodium hydroxide (20 mL) was added and after 40 min the pH was brought between 7 and 8 by addition of 1 N HCl. The resulting mixture was extracted with 4:1 dichloromethane:2-propanol (3×30 mL). The organic layers were dried, concentrated and evaporated and the residue chromatographed on silica in a gradient from 25% to 80% ethyl acetate-hexanes giving a brown solid. Yield 450 mg, 60%. 1H NMR (CDCl3 containing CD3OD, 400 mHz) δ 8.50 (br, 2H), 7.38 (br, 2H), 7.37 (d, 2H, J=8.7 Hz), 6.77 (d, 2H, J=8.7 Hz), 3.11 (br, 2H, OH+H2O). MS (AP+) m/e 196 (MH+).

reactant | Boron tribromide | 9.7 mmol, 1M, 9.7 mL | B(Br)(Br)Br | BBr3
reactant | 4-(2-(4-methoxyphenyl)ethynyl)pyridine | 3.88 mmol, 810 mg | COC1=CC=C(C=C1)C#CC1=CC=NC=C1 | C14H11NO
reactant | sodium hydroxide | 1 N, 20 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-(pyridin-4-yl)ethynyl)phenol | N1=CC=C(C=C1)C#CC1=CC=C(C=C1)O | C13H9NO
